US07468457B2
d. Synthesis of 4-[(E)-3-(5-tert-Butyl-6-isobutoxy-4′-methyl-3-biphenylyl)-3-oxopropenyl]benzoic Acid
In a similar manner to that of Example 2 b, by reacting 1 g (2.9 mmol) of 1-(5-tert-Butyl-6-isobutoxy-4′-methyl-3-biphenylyl)ethanone with 400 mg (2.6 mmol) of 4-carboxybenzaldehyde. A yellow solid is obtained (m=700 mg; yield=50%; m.p.=243° C.).

reactant | 1-(5-tert-Butyl-6-isobutoxy-4′-methyl-3-biphenylyl)ethanone | 2.9 mmol, 1 g | C(C)(C)(C)C=1C=C(C=C(C1OCC(C)C)C1=CC=C(C=C1)C)C(C)=O | C23H30O2
reactant | 4-carboxybenzaldehyde | 2.6 mmol, 400 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
product | 4-[(E)-3-(5-tert-Butyl-6-isobutoxy-4′-methyl-3-biphenylyl)-3-oxopropenyl]benzoic Acid | yield=50% | C(C)(C)(C)C=1C=C(C=C(C1OCC(C)C)C1=CC=C(C=C1)C)C(/C=C/C1=CC=C(C(=O)O)C=C1)=O | C31H34O4
